US07718668B2
(2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol mesylate
(2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol (1.5 g; 3.6 mmol) is dissolved in 9 ml of tetrahydrofuran. The solution is heated up to 60° C. 247 μg (3.8 mmol) of methanesulfonic acid are added. After crystallisation the suspension is stirred over night. The crystals are filtered off and dried to obtain 1.73 g (95%) of the title compound (m.p.: 193° C.).

reactant | (2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol | 3.6 mmol, 1.5 g | COC1=NC(=CC=C1C1=N[C@@H]2CC[C@H](C[C@@H]2C2=CC(=C(C=C12)OC)OCC)O)OC | C23H28N2O5
reactant | methanesulfonic acid | 3.8 mmol, 247 μg | CS(=O)(=O)O | CH4O3S
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | (2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol mesylate | 1.73 g, 95% | S(C)(=O)(=O)O[C@H]1C[C@@H]2C3=CC(=C(C=C3C(=N[C@@H]2CC1)C=1C(=NC(=CC1)OC)OC)OC)OCC | C24H30N2O7S
